US07678798B2
Ethyl 2-Acetyl-3-ethoxybut-2-enoate.
A 5 L 4-neck flask equipped with a mechanical stirrer, condenser, thermowell, addition funnel and N2 inlet was charged with ethyl acetoacetate (493.1 g, 483 mL, 3.7931 mol, 1.0 equiv) and sodium ethoxide (3.1 g, 0.046 mol, 1.2 mol %). Ketene diethylacetal (880.0 g, 1000 mL, 7.5862 mol, 2.0 equiv) was added over 1 hr maintaining the reaction temperature at <22° C. by external cooling. When addition was complete, the reaction mixture was heated at 85° C.±5° C. for 7.5 hr. The yellow brown reaction mixture was cooled to room temperature and stirred overnight. Much of the lower boiling components [EtOH, EtOAc, Me(OEt)3] were stripped on a roto-evaporator (bath temperature ˜65° C.). The residual yellow-orange oil was distilled, collecting the fraction with bp 100-107° C. (1.8-2.1 Torr) to give 675.2 g (89%) of product as a yellow liquid.

reactant | ethyl acetoacetate | 3.7931 mol, 483 mL, 493.1 g, 1.0 equiv | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | Ketene diethylacetal | 7.5862 mol, 1000 mL, 880.0 g, 2.0 equiv | C(C)OC(=C)OCC | C6H12O2
reactant | EtOH | CCO | C2H6O
catalyst | sodium ethoxide | 0.046 mol, 3.1 g | [O-]CC.[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 2-Acetyl-3-ethoxybut-2-enoate | 675.2 g, 89% | C(C)(=O)C(C(=O)OCC)=C(C)OCC | C10H16O4
